US06403822B2
The procedure of Synthesis Example 1 was repeated except that 1-ethylcyclohexyl acetate was used instead of 1-ethylcyclopentyl acetate, and 3-(5-norbornen-2-yl)acetone was used instead of 5-norbornene-2-carbaldehyde. There was obtained 1-ethylcyclohexyl 3-hydroxy-3-methyl-4-(5-norbornen-2-yl)butyrate. Yield 92%.

reactant | 1-ethylcyclohexyl acetate | C(C)(=O)OC1(CCCCC1)CC | C10H18O2
reactant | 3-(5-norbornen-2-yl)acetone | C12C(CC(C=C1)C2)CC(C)=O | C10H14O
product | 1-ethylcyclohexyl 3-hydroxy-3-methyl-4-(5-norbornen-2-yl)butyrate | Yield 92% | OC(CC(=O)OC1(CCCCC1)CC)(CC1C2C=CC(C1)C2)C | C20H32O3
